US08377938B2
Example 2-1) N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide hydrochloride
N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide (32.5 mg) was suspended in acetone (0.325 ml). 5N hydrochloric acid (0.012 ml) was added at room temperature. After adding water (0.151 ml), the mixture was heated and stirred at 50° C. for 5 minutes to form a solution. The solution was stirred at room temperature for 30 minutes, acetone (0.325 ml) was added, and stirring was continued for 26 hours. The precipitate was collected by filtration and washed with acetone (0.163 ml, twice). It was then dried under aeration at room temperature for 1 hour and then dried with warm air at 60° C. for 12 hours to give the title compound (27.6 mg, 80%) as white crystals.

reactant | N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide | 32.5 mg | FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)F)NC(=O)CC1(CC1)CC(=O)NC1=CC=C(C=C1)F | C28H26F3N5O5
reactant | hydrochloric acid | 5N, 0.012 ml | Cl | ClH
reactant | water | 0.151 ml | O | H2O
solvent | acetone | 0.325 ml | CC(=O)C | C3H6O
solvent | acetone | 0.325 ml | CC(=O)C | C3H6O
product | N-{2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxyamide hydrochloride | 27.6 mg, 80% | Cl.FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)F)NC(=O)CC1(CC1)CC(=O)NC1=CC=C(C=C1)F | InChI=1S/C28H26F3N5O5.ClH/c29-16-1-3-17(4-2-16)33-25(38)12-28(6-7-28)13-26(39)34-22-10-21(31)23(11-20(22)30)41-19-5-8-32-24(9-19)35-27(40)36-14-18(37)15-36;/h1-5,8-11,18,37H,6-7,12-15H2,(H,33,38)(H,34,39)(H,32,35,40);1H
